### ISSUE TITLE
Proof obligation for `Lift.bind` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#99]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**🤖 AI Analysis:**
### Statement Explanation
This theorem, `Lift.bind`, establishes a fundamental property for relational reasoning about probabilistic programs, often known as the bind rule in Probabilistic Relational Hoare Logic (PRHL).

It states that if you have two sub-probability distributions `p` and `q` that can be coupled with respect to a relation `R` (hypothesis `hpq`), and for any pair of values `(a, b)` related by `R`, you can find a coupling for the distributions resulting from applying the monadic functions `F` and `G` to them (hypothesis `hpt`), then you can construct a coupling for the sequentially composed distributions `p >>= F` and `q >>= G`.

-   **Hypotheses**:
    -   `hpq : Lift p R q`: There exists a coupling `c` for `p` and `q` such that any pair `(a, b)` sampled from `c` is guaranteed to be in the relation `R`.
    -   `F : α → SPMF γ`, `G : β → SPMF δ`: These are monadic functions representing the next step of a probabilistic computation.
    -   `hpt : ∀ a b, (a, b) ∈ R → Lift (F a) (Set.univ : Set (γ × δ)) (G b)`: For any pair of inputs `(a, b)` related by `R`, the resulting distributions `F a` and `G b` can be coupled. The relation for this second-stage coupling is `Set.univ`, which means any pair of outputs is acceptable; we only care that a coupling exists.

-   **Goal**:
    -   `Lift (p >>= F) (Set.univ : Set (γ × δ)) (q >>= G)`: To show that the distributions resulting from the `bind` operations can also be coupled.

### Context
This theorem is a cornerstone for verifying properties of probabilistic programs that involve sequential composition. The `SPMF` monad models probabilistic computations that may fail (or not terminate), and `Lift p R q` is the standard way to assert that two such computations `p` and `q` are related by `R`.

`Lift.bind` is the lifting rule for the monadic `bind` operator (`>>=`). It connects the abstract notion of relational lifting (`Lift`) with the concrete monadic structure of `SPMF`. The proof naturally relies on lower-level properties of couplings under `bind`, specifically the `IsCoupling.bind` or `IsCoupling.exists_bind` theorems, which describe how to construct a coupling for bound distributions from a coupling of the initial distributions. The file comments explicitly mention PRHL, confirming that this is intended as a key lemma in a verification framework.

### Proof Suggestion
The current proof attempt gets stuck because it tries to prove an impossible subgoal. Here's a breakdown of the issue and a suggested path forward:

1.  **Analyze the stuck point**: Inside the proof of `h` for `IsCoupling.exists_bind`, you apply `hR`. This requires you to prove the premise `c (some (a, b)) ≠ 0`. However, at this stage, `a` and `b` are arbitrary (universally quantified), so you cannot prove they are in the support of `c`.

2.  **Identify the root cause**: The problem lies in using `IsCoupling.exists_bind`. This theorem requires its hypothesis `h` to provide a coupling for *all* pairs `(a, b)`. Your hypothesis `hpt` is conditional and only provides a coupling when `(a, b) ∈ R`. The information that `(a, b)` is in the support of `c` (which implies `(a, b) ∈ R`) is not available when proving the premise of `IsCoupling.exists_bind`.

3.  **Change of strategy**: Instead of `IsCoupling.exists_bind`, you should use the more fundamental theorem `IsCoupling.bind`. Its hypothesis has the crucial precondition you need:
    ```lean
    h : ∀ a₁ a₂, c.1.1 (some (a₁, a₂)) ≠ 0 → IsCoupling (d a₁ a₂) (f a₁) (g a₂)
    ```
    This precondition `c.1.1 (some (a₁, a₂)) ≠ 0` is exactly what allows you to use `hR` to deduce `(a₁, a₂) ∈ R` and then apply `hpt`.

4.  **Step-by-step revised proof plan**:
    a. Deconstruct `hpq` to get the coupling `c`, the proof `hc`, and the support condition `hR`.
    b. The main challenge is to construct the function `d : α → β → SPMF (γ × δ)` required by `IsCoupling.bind`. You can define this function using `Classical.choose` on the existential provided by `hpt`. Since `hpt` requires `(a, b) ∈ R`, you can define `d` piecewise. A good way is to use `dite` (dependent if-then-else):
    ```lean
    let d (a : α) (b : β) : SPMF (γ × δ) :=
      if h_mem_R : (a, b) ∈ R then
        Classical.choose (hpt a b h_mem_R)
      else
        failure -- Or any default SPMF
    ```
    c. Use this `d` to invoke `IsCoupling.exists_bind`, which in its own proof will ultimately call `IsCoupling.bind`. A more direct approach is to manually construct the final coupling and prove its properties by applying `IsCoupling.bind` yourself.
       - Let the final coupling be `d_final := c.1 >>= λ p => d p.1 p.2`.
       - Show `IsCoupling d_final (p >>= F) (q >>= G)` by applying `IsCoupling.bind c d ?h_d`.
    d. The main proof obligation will be showing `∀ a b, c.1 (some (a, b)) ≠ 0 → IsCoupling (d a b) (F a) (G b)`.
       - Inside this proof, you will have the hypothesis `hc_ne_zero : c.1 (some (a, b)) ≠ 0`.
       - Use `hR` and `hc_ne_zero` to prove `(a, b) ∈ R`.
       - With this, you can simplify the `if` statement in the definition of `d a b` and use `Classical.choose_spec` to finish the proof.
    e. Once you have the final coupling `d_final` and the `IsCoupling` proof, the `Lift` goal is straightforward since `IsCoupling.supports d_final Set.univ` is trivially true.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L255)

**Code Snippet:**
```lean
theorem Lift.bind {p : SPMF α} {q : SPMF β} {R : Set (α × β)}
    (hpq : Lift p R q)
    (F : α → SPMF γ) (G : β → SPMF δ)
    (hpt : ∀ a b, (a, b) ∈ R → Lift (F a) (Set.univ : Set (γ × δ)) (G b)) :
    Lift (p >>= F) (Set.univ : Set (γ × δ)) (q >>= G) := by
  -- Build pointwise couplings via `IsCoupling.exists_bind` and combine them.
  rcases hpq with ⟨c, hc, hR⟩
  rcases (IsCoupling.exists_bind (c := ⟨c, hc⟩)
    (f := F) (g := G)
    (h := fun a b => by
      classical
      rcases hpt a b (by simp [IsCoupling.supports] at hR; apply hR; sorry) with ⟨d, hd, _⟩

```
